US04510139
Boron tribromide (10 ml in 25 ml of methylene dichloride) was added dropwise over a 30 minute period to a solution of 15.5 g of 1-[2-(4-methoxyphenylamino)benzoyl]piperidine in 80 ml of dry methylene dichloride cooled in a bath of Dry Ice and isopropyl alcohol. The reaction mixture was allowed to warm to room temperature and to stand overnight. The solvent was then removed in vacuo, and the residue was treated with 100 ml of distilled water and made basic with about 250 ml of saturated sodium bicarbonate solution. The solid which formed was collected by filtration and recrystallized from ethanol to give 10.2 g of 1-[2-(4-hydroxyphenylamino)benzoyl]piperidine, colorless powder, m.p. 199°-201° C.(decompn.).

reactant | Boron tribromide | 10 ml | B(Br)(Br)Br | BBr3
reactant | 1-[2-(4-methoxyphenylamino)benzoyl]piperidine | 15.5 g | COC1=CC=C(C=C1)NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C19H22N2O2
reactant | Dry Ice | C(=O)=O | CO2
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | methylene dichloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-hydroxyphenylamino)benzoyl]piperidine | 10.2 g | OC1=CC=C(C=C1)NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C18H20N2O2
